US06077901
Silane Aspartate 1
1482 parts (8.27 equiv.) of 3-aminopropyltrimethoxysilane were added to a 5 liter flask fitted with agitator, thermocouple, nitrogen inlet and addition funnel with condenser. 1423.2 parts (8.27 equiv.) of diethyl maleate were added dropwise through the addition funnel over a period of 2 hours. The temperature of the reactor was maintained at 25° C. during the addition. The reactor was maintained at 25° C. for an additional 5 hours at which time the product was poured into glass containers and sealed under a blanket of nitrogen. After one week the unsaturation number was 0.6 indicating the reaction was ~99% complete. The product, N-(3-trimethoxysilylpropyl) aspartic acid diethyl ester, had a viscosity of 11 mPa.s at 25° C.

reactant | 3-aminopropyltrimethoxysilane | 8.27 equiv. | NCCC[Si](OC)(OC)OC | C6H17NO3Si
reactant | diethyl maleate | 8.27 equiv. | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
reactant | N-(3-trimethoxysilylpropyl) aspartic acid diethyl ester | C(C)OC([C@@H](NCCC[Si](OC)(OC)OC)CC(=O)OCC)=O | C14H29NO7Si
product | Silane Aspartate | N[C@@H](CC(=O)O)C(=O)O.[SiH4] | InChI=1S/C4H7NO4.H4Si/c5-2(4(8)9)1-3(6)7;/h2H,1,5H2,(H,6,7)(H,8,9);1H4/t2-;/m0./s1
